US09238644B2
(a) tert-Butyl 4-(5-((4-((2-(1-(methoxycarbonyl)cyclopropyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)pyridin-2-yl)piperidine-1-carboxylate (A10)
A stirred suspension of tert-butyl 4-(5-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)pyridin-2-yl)piperidine-1-carboxylate (K5) (152 mg, 0.332 mmol), PdCl2(PPh3)2 (12 mg, 0.017 mmol), PPh3 (9 mg, 0.03 mmol), CuI (6 mg, 0.03 mmol) and methyl 1-(2-ethynylphenyl)cyclopropanecarboxylate (K2) (80 mg, 0.40 mmol) in DMF (4.0 mL) was degassed with nitrogen for 10 minutes. Et3N (1.0 mL) was added and the resulting mixture heated under microwave irradiation at 120° C. for 20 minutes. The volatiles were removed in vacuo and the residue was adsorbed onto silica gel and purified by column chromatography (Biotage Isolera, 24 g SiO2 cartridge, 0-60% EtOAc in petroleum benzine 40-60° C. then 10-45% EtOAc in petroleum benzine 40-60° C.) to give the title compound A10 as yellow oil (141 mg, 68%); 1H NMR (400 MHz, d6-DMSO) δ 10.53 (s, 1H), 8.84 (s, 1H), 8.77 (d, J=2.5 Hz, 1H), 8.12 (d, J=6.5 Hz, 1H), 7.61 (dd, J=7.6, 1.0 Hz, 1H), 7.54-7.38 (m, 3H), 7.28 (d, J=8.5 Hz, 1H), 4.05 (br, 2H), 3.51 (s, 3H), 2.94-2.72 (m, 3H), 1.81 (d, J=10.5 Hz, 2H), 1.63 (q, J=4.1 Hz, 2H), 1.61-1.49 (m, 2H), 1.41 (s, 9H), 1.29 (q, J=4.2 Hz, 2H). LCMS-A: rt 5.913 min; m/z 622 [M+H]+.

reactant | tert-butyl 4-(5-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)pyridin-2-yl)piperidine-1-carboxylate | 0.332 mmol, 152 mg | ClC1=NC(=NC=C1C(F)(F)F)NC=1C=CC(=NC1)C1CCN(CC1)C(=O)OC(C)(C)C | C20H23ClF3N5O2
reactant | PPh3 | 0.03 mmol, 9 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | methyl 1-(2-ethynylphenyl)cyclopropanecarboxylate | 0.40 mmol, 80 mg | C(#C)C1=C(C=CC=C1)C1(CC1)C(=O)OC | C13H12O2
solvent | DMF | 4.0 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(PPh3)2 | 0.017 mmol, 12 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.03 mmol, 6 mg | [Cu]I
product | tert-Butyl 4-(5-((4-((2-(1-(methoxycarbonyl)cyclopropyl)phenyl)ethynyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)pyridin-2-yl)piperidine-1-carboxylate | COC(=O)C1(CC1)C1=C(C=CC=C1)C#CC1=NC(=NC=C1C(F)(F)F)NC=1C=CC(=NC1)C1CCN(CC1)C(=O)OC(C)(C)C | C33H34F3N5O4
